US08471005B2
Into a 8-dram vial, N-[2-(2-Hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide (176 mg, 0.552 mmol), N,N-Dimethylformamide (2.00 mL, 25.8 mmol), N,N-Diisopropylethylamine (0.211 mL, 1.21 mmol), and N-Phenylbis(trifluoromethanesulphonimide) (0.236 g, 0.662 mmol) were added. The reaction was stirred at room temperature for 30 minutes. N-[1-(4-Amino-3-methoxy-phenyl)-cyclobutyl]-2,2,2-trifluoro-acetamide (0.350 g, 1.21 mmol) was then added. The reaction mixture was heated at 120° C. for 4 hours. The solvent was removed under vacuum overnight. The reaction mixture was purified via HPLC reverse phase chromatography with 0.1% TFA in Water and 0.1% TFA in ACN. The collected fractions were lyophilized to give a yellow solid. The solid was partitioned with NaHCO3 and DCM. The organic was separated, washed with Brine and dried over Na2SO4. The solid was filtered and washed with DCM. The solvent was removed under vacuum to give 2,2,2-Trifluoro-N-[1-(4-{7-[2-(methanesulfonyl-methyl-amino)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino}-3-methoxy-phenyl)-cyclobutyl]-acetamide as a yellow solid (180 mg, 55%). LCMS (E/I+) 589.23 (M+H). NMR 1H (DMSO-d6)-9.98 (s, 1H), 8.96 (s, 1H), 7.93-8.00 (m, 1H), 7.90 (d, 1H, J=8.35 Hz), 7.77 (s, 1H), 7.60-7.68 (m, 1H), 7.48-7.56 (m, 2H), 7.04 (s, 1H), 7.02 (d, 1H, J=4.74 Hz), 6.95 (d, 1H, J=4.74 Hz), 6.87 (d, 1H, J=8.51 Hz), 3.84 (s, 3H), 3.03 (s, 3H), 2.09 (s, 3H), 2.54 (t, 4H, J=7.44 Hz), 1.70-2.00 (m, 2H).

reactant | N-[2-(2-Hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide | 0.552 mmol, 176 mg | OC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C | C14H14N4O3S
reactant | N,N-Dimethylformamide | 25.8 mmol, 2.00 mL | CN(C=O)C | C3H7NO
reactant | N,N-Diisopropylethylamine | 1.21 mmol, 0.211 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-Phenylbis(trifluoromethanesulphonimide) | 0.662 mmol, 0.236 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | N-[1-(4-Amino-3-methoxy-phenyl)-cyclobutyl]-2,2,2-trifluoro-acetamide | 1.21 mmol, 0.350 g | NC1=C(C=C(C=C1)C1(CCC1)NC(C(F)(F)F)=O)OC | C13H15F3N2O2
product | 2,2,2-Trifluoro-N-[1-(4-{7-[2-(methanesulfonyl-methyl-amino)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino}-3-methoxy-phenyl)-cyclobutyl]-acetamide | 180 mg, 55% | FC(C(=O)NC1(CCC1)C1=CC(=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(C)S(=O)(=O)C)OC)(F)F | C27H27F3N6O4S
